US06730684B1
Preparation of 2-Bromo-N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide
A solution of 2-bromobenzoyl chloride (1.85 g, 8.45 mmole) in CH2Cl2 (10 mL) was added dropwise to a solution of 1-methyl-2-(methylaminomethyl)indole (1.47 g, 8.45 mmole) and Et3N (3.6 mL, 25.8 mmole) in CH2Cl2 (50 mL) at 0° C. The reaction was stirred at 0° C. for 15 min, then was allowed to warm to RT. After 2 hr, the mixture was concentrated in vacuo, and the residue was diluted with H2O. The mixture was extracted with Et2O, and the combined Et2O layers were dried (MgSO4) and concentrated in vacuo. The oily residue was triturated with Et2O/petroleum ether to afford the title compound (2.6 g, 87%) as a white solid: MS (ES) m/e 357 (M+H)+.

reactant | 2-bromobenzoyl chloride | 8.45 mmole, 1.85 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | 1-methyl-2-(methylaminomethyl)indole | 8.45 mmole, 1.47 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | Et3N | 25.8 mmole, 3.6 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide | 2.6 g, 87% | BrC1=C(C(=O)N(CC=2N(C3=CC=CC=C3C2)C)C)C=CC=C1 | C18H17BrN2O
